US06174889B1
Dry dimethylsulphoxide (20 ml) was added to potassium hydroxide (4.2 g, 0.074 mol) (crushed pellets) and the mixture was stirred under nitrogen for 5 mins. 5-Nitroindole (commerically available) (3.0 g, 0.019 mol) was then added and the red mixture stirred for 30 min at room temperature. The mixture was then cooled to −10° C., benzyl bromide (4.4 ml, 0.037 mol) was slowly added and the mixture stirred and allowed to warm to room temperature over a period of 40 mins. Water (50 ml) was then added and the mixture was extracted with diethyl ether (2×200 ml). The extracts were washed with water (4×50 ml), dried over sodium sulphate and evaporated to leave an oily solid. The excess benzyl bromide was removed by dissolving the whole in diethyl ether (50 ml), diluting this solution with 40-60 petrol (50 ml) and then gradually removing the diethyl ether in vacuo to leave a yellow solid suspended in the petrol. The solid was filtered, washed with copious amounts of 40-60 petrol and dried to give 1-benzyl-5-nitroindole (2.4 g, 51%) as a yellow solid, m.p. 102-104° C.; δH [2H6]-DMSO 8.53 (1H, s, 4-H), 8.00 (1H, d, J 9, 6-H), 7.78 (1H, s, 2-H), 7.68 (1H, d, J 9, 7-H), 7.36-7.20 (5H, m, 2′-H, 3′-H, 4′-H, 5′-H, 6′-H), 6.81 (1H, s, 3-H), 5.52 (2H, s, CH2).

reactant | dimethylsulphoxide | 20 ml | CS(=O)C | C2H6OS
reactant | potassium hydroxide | 0.074 mol, 4.2 g | [OH-].[K+]
reactant | 5-Nitroindole | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | benzyl bromide | 0.037 mol, 4.4 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | Water | 50 ml | O | H2O
product | 1-benzyl-5-nitroindole | 2.4 g, 51% | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C15H12N2O2
